US20010025045A1
(a) Methyl 2-methoxy-4-iso-propyl-5-pentafluoroethylbenzoate
Methyl 2-methoxy-4-iso-propyl-5-iodobenzoate (334 mg, 1mmol) was dissolved in a mixture of toluene (10ml) and DMF (10ml). Potassium pentafluoropropionate (300mg, 1.5mmol) and copper (I) iodide (380mg, 2mmol) was added and the mixture heated in an oil bath at 145° C. A Dean and Stark apparatus was used to collect distilled toluene and approximately 8 ml were removed. The oil bath temperature was then raised to 160° C. and maintained at that temperature for 5h. The mixture was cooled, filtered and the filltrate diluted with ethyl acetate and water. The organic layer was washed with water, brine and dried (Mg SO4). Evaporation gave the desired product as a yellow solid, (335mg).

reactant | Methyl 2-methoxy-4-iso-propyl-5-iodobenzoate | 1mmol, 334 mg | COC1=C(C(=O)OC)C=C(C(=C1)C(C)C)I | C12H15IO3
reactant | Potassium pentafluoropropionate | 1.5mmol, 300mg | FC(C(C(=O)[O-])(F)F)(F)F.[K+]
solvent | toluene | 10ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 10ml | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 2mmol, 380mg | [Cu]I
product | Methyl 2-methoxy-4-iso-propyl-5-pentafluoroethylbenzoate | 335mg | COC1=C(C(=O)OC)C=C(C(=C1)C(C)C)C(C(F)(F)F)(F)F | C14H15F5O3
